US08420640B2
A solution of 5-bromo-2-nitro-N-phenylbenzenamine (4.0 g, 13.6 mmol) and piperazine (4.7 g, 54.6 mmol) in 40 ml NMP was heated at 100° C. for 16 hours. The reaction was quenched with 100 ml water. The mixture was extracted with ethyl acetate (3×30 ml) and dried over anhydrous sodium sulfate. 2-Nitro-N-phenyl-5-(piperazin-1-yl)benzenamine (3.5 g, 86%) was obtained by flash column chromatograph (10% methanol in dichoromethane). A solution of 2-nitro-N-phenyl-5-(piperazin-1-yl)benzenamine (0.5 g, 1.7 mmol), benzyl bromide (0.2 g, 1.7 mmol) and triethylamine (0.60 ml, 4.19 mmol) in 20 ml dichloromethane was stirred at 0° C. for 2 hours. The mixture was washed with water (2×10 ml) and dried over anhydrous sodium sulfate before removing the solvents. N-(5-(4-benzylpiperazin-1-yl)-2-nitrophenyl)benzenamine (0.30 g, 43%) was obtained by flash column chromatograph (50% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 2.54 (t, J=5.0 Hz, 4H), 3.32 (t, J=2.0 Hz, 4H), 3.56 (s, 2H), 6.34 (dd, J=9.7, 2.1 Hz, 1H), 6.42 (d, J=2.5 Hz, 1H), 7.22-7.44 (m, 9H), 8.14 (d, J=9.7 Hz, 1H), 9.90 (s, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 47.3, 53.0, 63.3, 96.2, 106.2, 124.9, 125.8, 127.8, 128.9, 129.3, 129.6, 130.1, 138.0, 139.5, 145.9, 156.1.

reactant | 2-nitro-N-phenyl-5-(piperazin-1-yl)benzenamine | 1.7 mmol, 0.5 g | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCNCC1)NC1=CC=CC=C1 | C16H18N4O2
reactant | benzyl bromide | 1.7 mmol, 0.2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | triethylamine | 4.19 mmol, 0.60 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(5-(4-benzylpiperazin-1-yl)-2-nitrophenyl)benzenamine | 0.30 g, 43% | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=CC(=C(C1)NC1=CC=CC=C1)[N+](=O)[O-] | C23H24N4O2
